US07268159B2
1-(4-Nitro-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester was prepared from 3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester and 4-nitrobenzyl bromide followed the procedure of Example 3 Step 1 as a yellow powder: 1H NMR (DMSO-d6) δ 1.02 (t, J=7.2 Hz, 3H), 4.15 (q, J=7.2 Hz, 2H), 7.20 (dd, J=6.9, 3.4 Hz, 1H), 7.24 (dd, J=6.2, 0.8 Hz, 1H), 7.25-7.27 (m, 1H), 7.31 (d, J=8.8 Hz, 2H), 7.37-7.43 (m, 1H), 7.62 (d, J=8.4 Hz, 1H), 7.68 (dd, J=5.2, 1.2 Hz, 1H), 7.71 (d, J=4.1 Hz, 1H), 8.19 (d, J=8.8 Hz, 2H); MS (ESI) m/z 407 (MH+); 405 ([M−H]−); Anal. calcd for C22H18N2O4S: C, 65.01; H, 4.46; N, 6.89 Found: C, 65.04; H, 6.62; N, 6.82.

reactant | 3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C=1SC=CC1 | C15H13NO2S
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 1-(4-Nitro-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C=1SC=CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C22H18N2O4S
